US08022206B2
Intermediate 4: 4,7-Dibromofuro[3,2-c]pyridine
A mixture of 7-bromo-5H-furo[3,2-c]pyridin-4-one (21.2 g, 99 mmol) and POBr3 (31.2 g, 109 mmol) was heated at 70° C. for 5 min, then heated to 120° C. for 2 h. After cooled to rt, the solid was crashed and quenched with aqueous Na2CO3 (200 mL), then diluted with EtOAc (300 mL). The insoluble material was filtered off through a pad of Celite. The organic phase was collected and dried over Na2SO4. The crude material was purified by silica gel chromatography eluting with Hexanes-EtOAc (90:10→85:15) to give the title compound as a white solid (20.75 g, 68%). 1H NMR (CDCl3, 400 MHz): δ=6.91 (d, J=2.3 Hz, 1H), 7.79 (d, J=2.3 Hz, 1H), 8.37 (s, 1H).

reactant | 7-bromo-5H-furo[3,2-c]pyridin-4-one | 99 mmol, 21.2 g | BrC=1C2=C(C(NC1)=O)C=CO2 | C7H4BrNO2
reactant | POBr3 | 109 mmol, 31.2 g | P(=O)(Br)(Br)Br | Br3OP
product | 4,7-Dibromofuro[3,2-c]pyridine | 20.75 g, 68% | BrC1=NC=C(C2=C1C=CO2)Br | C7H3Br2NO
